US06413938B1
4-Bromo-2,5,6-trichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole
To a suspension of 4-bromo-2,5,6-trichloro-1H-benzimidazole (0.30 g, 1 mmol), in acetonitrile (5 mL) was added N,O-bis(trimethylsilyl)acetamide (0.25 mL, 1 mmol). The resulting mixture was allowed to stir at 65° C. for 15 min., followed by the addition of 1,2,3-tri-O-acetyl-5-deoxyribofuranose (0.31 g, 1.2 mmol) in acetonitrile (5 mL) and trimethylsilyltrifluoromethane sulfonate (0.25 mL, 1.3 mmol). The mixture was allowed to stir at 65° C. for 20 min and was then allowed to cool to RT. The mixture was diluted with ethyl acetate and was washed with a saturated NaHCO3/NaCl solution, dried over MgSO4 and the solvents were removed by rotary evaporation. The product was purified by flash chromatography using chloroform as eluent followed by recrystallization from methanol to provide 0.28 g (55%) of the title compound as white crystals; m.p. 138-141° C.; 1H NMR (DMSO-d6) δ: 8.18 (s, 1H), 6.19 (d, 1H), 5.61 (dd, 1H), 5.25 (dd, 1H), 4.24 (m, 1H), 2.14 (s, 3H), 2.02 (s, 3H), 1.50 (d, 3H).

reactant | 4-bromo-2,5,6-trichloro-1H-benzimidazole | 1 mmol, 0.30 g | BrC1=C(C(=CC=2NC(=NC21)Cl)Cl)Cl | C7H2BrCl3N2
reactant | N,O-bis(trimethylsilyl)acetamide | 1 mmol, 0.25 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 1,2,3-tri-O-acetyl-5-deoxyribofuranose | 1.2 mmol, 0.31 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
reactant | trimethylsilyltrifluoromethane sulfonate | 1.3 mmol, 0.25 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-2,5,6-trichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 0.28 g, 55% | BrC1=C(C(=CC=2N(C(=NC21)Cl)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)Cl)Cl | C16H14BrCl3N2O5
